US04925658
Into a round bottom flask there are introduced 3.80 g (9 mmoles) of 4-[3-(1-adamantyl)4-methoxybenzoylthio] benzoic acid, 40 ml of dichloromethane and 1.8 ml (9 mmoles) of dicyclohexylamine. The reaction mixture is stirred for one hour. To the resulting solution 720 μl (9.9 mmoles) of thionylchloride are added and the mixture is stirred at ambient temperature for 2 hours. It is then evaporated to dryness, and taken up in 500 ml of ethyl ether. The dicyclohexylammonium chloride is filtered and the solvent is evaporated. 3.97 g (100% yield) of crude 4-[3-(1-adamantyl)-4-methoxybenzoylthio] benzoic acid chloride which is used as such for the following synthesis are obtained.

reactant | 4-[3-(1-adamantyl)4-methoxybenzoylthio] benzoic acid | 9 mmoles, 3.80 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)SC3=CC=C(C(=O)O)C=C3)C=CC2OC | C25H26O4S
reactant | dicyclohexylamine | 9 mmoles, 1.8 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionylchloride | 9.9 mmoles, 720 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-[3-(1-adamantyl)-4-methoxybenzoylthio] benzoic acid chloride | 3.97 g, 100% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)SC3=CC=C(C(=O)Cl)C=C3)C=CC2OC | C25H25ClO3S
